US04447361
6-(4-Methylphenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine
A solution of 3.6 g (0.012 mole) of [2-[(3-amino-2-pyridyl)amino]phenyl](4-methylphenyl)methanone in 100 ml of anhydrous toluene was treated with a catalytic amount of para toluene sulfonic acid and refluxed overnight while separating water with a Dean-Stark trap. The reaction mixture was filtered while hot. The product precipitated as the filtrate cooled to room temperature and was collected by filtration. Weight of solid after solvent evaporated was 2.5 g, m.p. 203.5°-205° C. (decomp.).

reactant | [2-[(3-amino-2-pyridyl)amino]phenyl](4-methylphenyl)methanone | 0.012 mole, 3.6 g | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)C | C19H17N3O
reactant | para toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Methylphenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine | CC1=CC=C(C=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C19H15N3
